US04987132
A mixture of 630 mg of 2-(3-pyridyl)thiazolidine-4-carboxylic acid, 520 mg of 3,4,5-trimethoxyaniline, 650 mg of dicyclohexylcarbodiimide and 430 mg of 1-hydroxybenzotriazole in 8 ml of N,N-dimethylformamide was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, and the insoluble matter was filtered off. The filtrate was washed in sequence with aqueous sodium hydrogen carbonate, water and saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Purification of the residue by silica gel column chromatography (eluent: ethyl acetate) gave 370 mg of N-(3,4,5-trimethoxyphenyl)-2-(3-pyridyl)thiazolidine-4-carboxamide. This compound was dissolved in 10 ml of ethyl acetate, and 2 ml of 2N hydrogen chloride solution in dioxane was added. The resultant solid was collected by filtration, washed with ethyl acetate and dried to give mg of N-(3,4,5-trimethoxyphenyl)-2-(3-pyridyl)thiazolidine-4-carboxamide dihydrochloride. Melting point 130°-132° C.

reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 630 mg | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | 3,4,5-trimethoxyaniline | 520 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | dicyclohexylcarbodiimide | 650 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 430 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3,4,5-trimethoxyphenyl)-2-(3-pyridyl)thiazolidine-4-carboxamide | 370 mg | COC=1C=C(C=C(C1OC)OC)NC(=O)C1NC(SC1)C=1C=NC=CC1 | C18H21N3O4S
